US07528147B2
A solution of 5-benzylhexahydropyrrolo[3,4-c]pyrrole-1-one, (7.2 g; 33 mmol) in absolute ethanol (100 ml) is placed in a 250 ml autoclave and palladium-on-charcoal at 5% (1.5 g) is then added. After having purged with nitrogen, the autoclave is placed under 5-6 bar of hydrogen at 70° C. for 16 hours. After returning to 20° C., the catalyst is filtered off and the filtrate is evaporated under reduced pressure. The compound obtained is taken up in acetonitrile (15 ml) at reflux, filtered, under hot conditions, through paper and then crystallized. After crystallization, the solid obtained is filtered off, washed with acetonitrile (3 ml) and then with diethyl ether (20 ml) and, finally, dried under reduced pressure at constant weight. Hexahydropyrrolo[3,4-c]pyrrole-1-one, (1.3 g; 31%) is isolated, the characteristics of which are as follows:

reactant | 5-benzylhexahydropyrrolo[3,4-c]pyrrole-1-one | C(C1=CC=CC=C1)N1CC2C(C1)CNC2=O | C13H16N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
catalyst | palladium-on-charcoal | [Pd] | Pd
product | Hexahydropyrrolo[3,4-c]pyrrole-1-one | C1(NCC2C1CNC2)=O | C6H10N2O
